US06281353B1
7-Chloro-3-(5-dimethylaminomethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo[1,5-a][1,4]benzodiazepin-6-one.
7.0 g 7-Chloro-3-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo-[1,5-a][1,4]benzodiazepin-6-one were suspended under stirring and argon atmosphere in 70 ml 1,4-dioxane and 25.7 ml dimethylamine (33% in ethanol) were added over 60 minutes. The reaction mixture was stirred one more hour at r.t. and then the solvents were removed under reduced pressure at 35° C. The residue was partitioned between 50 ml dichloromethane and 20 ml deionized water. The phases were separated and the organic phase was washed twice with 20 ml deionized water. The aqueous phases were extracted separately with the same portion of 25 ml dichloromethane, twice. The combined organic extracts were dried (Na2SO4) and the solvent was removed under reduced pressure. Crude product: 8.0 g as a light yellow foam.

reactant | 7-Chloro-3-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo-[1,5-a][1,4]benzodiazepin-6-one | 7.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O | C15H11Cl2N5O2
reactant | dimethylamine | 25.7 ml | CNC | C2H7N
solvent | 1,4-dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 7-Chloro-3-(5-dimethylaminomethyl-[1,2,4]oxadiazol-3-yl)-5-methyl-4,5-dihydro-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CN(C)C)C)=O | C17H17ClN6O2
